US06689922B1
5-{2-[3-(7-Ethyl-7-hydroxynon-1-enyl)phenyl]vinyl}-benzene-1,3-diol
In a manner similar to Example 1(j), by reacting 0.3 ml of concentrated sulphuric acid in 7 ml of methanol with 700 mg (1.41 mmol) of 9-{3-[2-(3,5-bis-ethoxymethoxyphenyl)vinyl]phenyl}-3-ethylnon-8-en-3-ol in 7 ml of methanol and 7 ml of THF, after purification on a silica column (ethyl acetate 40-heptane 60), beige crystals (m=477 mg; Y=77%) are obtained. m.p.=98-102° C.

reactant | sulphuric acid | 0.3 ml | S(O)(O)(=O)=O | H2O4S
reactant | 9-{3-[2-(3,5-bis-ethoxymethoxyphenyl)vinyl]phenyl}-3-ethylnon-8-en-3-ol | 1.41 mmol, 700 mg | C(C)OCOC=1C=C(C=C(C1)OCOCC)C=CC=1C=C(C=CC1)C=CCCCCC(CC)(O)CC | C31H44O5
solvent | methanol | 7 ml | CO | CH4O
solvent | methanol | 7 ml | CO | CH4O
solvent | THF | 7 ml | C1CCOC1 | C4H8O
product | 5-{2-[3-(7-Ethyl-7-hydroxynon-1-enyl)phenyl]vinyl}-benzene-1,3-diol | C(C)C(CCCCC=CC=1C=C(C=CC1)C=CC=1C=C(C=C(C1)O)O)(CC)O | C25H32O3
